### ISSUE TITLE
Visibility of section variables is not verified correctly

### ISSUE THREAD

**Issue by datokrat** [leanprover/lean4#10760]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In some cases, a section variable can be used in a theorem even if its type is private. In some other cases, Lean correctly rejects this, but the error message is confusing.

### Steps to Reproduce

Run this:

```lean
module
import Std.Data.HashMap

structure X

variable {m : Std.HashMap Nat Nat} {n : X}

/--
error: Unknown constant `Std.HashMap`

Note: A public declaration `Std.HashMap` exists but is imported privately; consider adding `public import Std.Data.HashMap.Basic`.
---
error: Unknown constant `Std.HashMap`

Note: A public declaration `Std.HashMap` exists but is imported privately; consider adding `public import Std.Data.HashMap.Basic`.
-/
#guard_msgs in
public theorem a : m = m := rfl

#guard_msgs in
public theorem b : n = n := rfl
```

**Expected behavior:**

Theorems `a` and `b` should fail because they are relying on section variables with types that are not publicly visible.

In theorem `a`, the error message should explain that there is a problem with a section variable.

**Actual behavior:**

Theorem `a` fails, but the error message appears at the two `m`'s in `m = m`. This is confusing: The theorem's signature doesn't explicitly reference the unknown constant `Std.HashMap`. It would be much better if the error message said something like: "The section variable `m`'s type `Std.HashMap Nat Nat` is not visible in the public scope for the following reason: Unknown constant `Std.HashMap` [...]"

Theorem `b` succeeds even though `n` is of type `X`, which is a private constant.

### Versions

```
Lean 4.25.0-nightly-2025-10-12
Target: x86_64-unknown-linux-gnu
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by SnirBroshi** [comment]
More reproductions ([Zulip](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Strange.20module.20system.20sorries/with/569146824)):

```lean
module

def Foo := Nat

public section

variable (x : Foo)

theorem nonsense (h₁ : x.foo) (h₂ : x.bar) : x.baz := by
  exact h₁

theorem proof_of_false (h : x.foo) : False := by
  exact h

theorem proof_of_false_without_warnings (_ : x.RH = False) : x.RH := by
  exact ‹_›

/--
info: [Error pretty printing signature: incorrect number of universe levels nonsense]
nonsense
-/
#guard_msgs in
#check nonsense

end

variable (x : Foo)

public def private_def_used_in_public (n : Nat) : Nat :=
  let := x
  n

/-- info: private_def_used_in_public (x : Foo) (n : Nat) : Nat -/
#guard_msgs in
#check private_def_used_in_public
```
